US06294558B1
4-Cyano-1-[3-fluoro-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-1H-pyrazole. (step 2)
The title compound was prepared according to the procedure of Example 5 using 5-(4-bromophenyl)-4-cyano-1-[3-fluoro-4-(methylsulfonyl)phenyl]-1H-pyrazole instead of 4-[5-(4-bromophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-phenylsulfonamide, 2-furanboronic acid instead of 3-thienylboronic acid.

reactant | 5-(4-bromophenyl)-4-cyano-1-[3-fluoro-4-(methylsulfonyl)phenyl]-1H-pyrazole | BrC1=CC=C(C=C1)C1=C(C=NN1C1=CC(=C(C=C1)S(=O)(=O)C)F)C#N | C17H11BrFN3O2S
reactant | 2-furanboronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
product | 4-Cyano-1-[3-fluoro-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-1H-pyrazole | C(#N)C=1C=NN(C1C1=CC=C(C=C1)C=1OC=CC1)C1=CC(=C(C=C1)S(=O)(=O)C)F | C21H14FN3O3S
